US08729061B2
Step B4: (S)-2-(dibenzylamino)butanal
Under an atmosphere of argon, at −20 to −30° C., LiAlH4 (2.34 g, 61.8 mmol, Eq: 1.2) was combined with THF (150 ml) to give a light grey suspension. Then (S)-2-(dibenzylamino)-N-methoxy-N-methylbutanamide (24 g, 51.5 mmol, Eq: 1.00), diluted in THF (50 ml) was added at −30° C. The reaction was stirred for 2.5 h at −30° C. The excess reagent was quenched by the dropwise addition of ethyl acetate and water (1/1, ˜30 ml). The reaction was vigorously stirred for 15 min at RT. After filtration through dicalite, the mixture was diluted with water (100 ml) and extracted with ethyl acetate. The organic layers were dried over Na2SO4 and concentrated in vacuo. The title compound was obtained as a light brown liquid (13.41 g, 97.5%, MS (m/e)=268.3 [M+H+]).

reactant | LiAlH4 | 61.8 mmol, 2.34 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (S)-2-(dibenzylamino)-N-methoxy-N-methylbutanamide | 51.5 mmol, 24 g | C(C1=CC=CC=C1)N([C@H](C(=O)N(C)OC)CC)CC1=CC=CC=C1 | C20H26N2O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (S)-2-(dibenzylamino)butanal | C(C1=CC=CC=C1)N([C@H](C=O)CC)CC1=CC=CC=C1 | C18H21NO
